US08003806B2
(b) 3-{2-Amino-3-[(4-methoxybenzyl)amino]anilino}-3-phenylpropanoic acid
To a solution of 3-{3-[(4-methoxybenzyl)amino]-2-nitroanilino}-3-phenylpropanoic acid (176 mg, 418 μmol) in ethanol (6 mL) was added Raney-nickel (Aldrich22, 167-8, catalytic, ca. 5 mg) and hydrazine hydrate (200 μL, 4.12 mmol). The resulting suspension was stirred at room temperature for 0.6 hour. The suspension was filtered through Celite®, and the pad washed with ethanol. The combined filtrates were evaporated in vacuo, and the residue purified by flash column chromatography on silica gel, eluting with a mixture of dichloromethane and methanol (19:1) to afford the title compound, 1H NMR: (CD3OD), 7.76-7.74 (m, 1H), 7.66-7.61 (m, 1H), 7.41-7.20 (m, 7H), 6.91-6.87 (m, 2H), 6.50-6.46 (m, 1H), 6.23-6.21 (m, 1H), 6.07-6.05 (m, 1H), 4.81 (br t, J=6.59, 1H), 4.27-4.24 (m, 3H), 3.80 (s, 3H), 2.90 (dd, J=15.38, 8.79, 1H), 2.76 (dd, J=15.38, 9.89, 1H).

reactant | 3-{3-[(4-methoxybenzyl)amino]-2-nitroanilino}-3-phenylpropanoic acid | 418 μmol, 176 mg | COC1=CC=C(CNC=2C(=C(NC(CC(=O)O)C3=CC=CC=C3)C=CC2)[N+](=O)[O-])C=C1 | C23H23N3O5
reactant | hydrazine hydrate | 4.12 mmol, 200 μL | O.NN
solvent | ethanol | 6 mL | C(C)O | C2H6O
catalyst | Raney-nickel | ca. 5 mg | [Ni] | Ni
product | 3-{2-Amino-3-[(4-methoxybenzyl)amino]anilino}-3-phenylpropanoic acid | NC1=C(NC(CC(=O)O)C2=CC=CC=C2)C=CC=C1NCC1=CC=C(C=C1)OC | C23H25N3O3
